US05565571
(R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl butyrate
A mixture of lithium bromide (0.181 g, 2.08 mmol), tri-n-butylphosphine oxide (0.454 g, 2.08 mmol), and dry o-xylene (10 ml) is azeotropically dried for 1 hr. After cooling below the reflux point, a mixture of (R)-glycidyl butyrate (5.000 g, 34.68 mmol) and 3-fluorophenyl isocyanate (4.755 g or 3.96 ml, 34.68 mmol) in dry o-xylene (10 ml) is added over 10 min to the hot mixture (some refluxing observed during the addition). When the addition is complete, the mixture is heated to reflux for 2 hr and then allowed to cool to 20-25o. The solvent is removed under reduced pressure and the residue chromatographed over silica gel, eluting with hexane/ethyl acetate (6:1, 4:1, and then 2:1), to give the title compound, [α]25D -46.7° (c 1.0, CHCl3); IR (mineral oil mull) 1758, 1615, 1591, 1498, 1229, 1197, 1169 cm-1 ; NMR (CDCl3, 300 MHz) δ 7.44, 7.34, 7.23, 6.86, 4.88, 4.39, 4.32, 4.13, 3.82, 2.33, 1.63, 0.92; MS (m/z) 281, 193, 180, 150, 148, 137, 123, 95, 43; HRMS (m/z)281.1068 (calc'd for C14H16FNO4 =281.1063).

reactant | lithium bromide | 2.08 mmol, 0.181 g | [Br-].[Li+]
reactant | tri-n-butylphosphine oxide | 2.08 mmol, 0.454 g | C(CCC)P(CCCC)(CCCC)=O | C12H27OP
reactant | (R)-glycidyl butyrate | 34.68 mmol, 5.000 g | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
reactant | 3-fluorophenyl isocyanate | 34.68 mmol, 3.96 ml, 4.755 g | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | o-xylene | 10 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 10 ml | CC=1C=CC=CC1C | C8H10
product | (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl butyrate | C(CCC)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=CC=C1)F | C14H16FNO4
